US05444057
A solution of 2-carboxy-4-nitropyridine N-oxide (0.5 g, 27 mmol) (E. Prafft et al., J. Prakt. Chem. 1961, 13, 58) in acetic acid (20 ml) was hydrogenated under pressure (70 psi) in the presence of Pd/C. (10%) (0.25 g) at ambient temperature for 2 hours. The catalyst was removed by filtration, and the filtrate evaporated to give 2-carboxy-4-aminopyridine as an off-white solid which was dried in a dessicator (300 mg, 80%).

reactant | 2-carboxy-4-nitropyridine N-oxide | 27 mmol, 0.5 g | C(=O)(O)C1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C6H4N2O5
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | [Pd] | Pd
product | 2-carboxy-4-aminopyridine | C(=O)(O)C1=NC=CC(=C1)N | C6H6N2O2
